US08084448B2
C. (S)-2-Benzenesulfonylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentylpropionamide
To a solution of (S)-2-benzenesulfonylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid (70 mg, 0.108 mmol) in methylene chloride (3 mL) is added EDCl (31 mg, 0.162 mmol) and the solution is stirred at RT for 3 min. To this is added n-pentylamine (10 mg, 0.119 mmol) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 0-100% EtOAc/hexane as eluent to give the title compound: (M−1)−=713.

reactant | (S)-2-benzenesulfonylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid | 0.108 mmol, 70 mg | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1 | C29H35N3O8S2Si
reactant | EDCl | 0.162 mmol, 31 mg | CCN=C=NCCCN(C)C.Cl
reactant | n-pentylamine | 0.119 mmol, 10 mg | C(CCCC)N | C5H13N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Benzenesulfonylamino-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentylpropionamide | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)NCCCCC)CC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1 | C34H46N4O7S2Si
